US04423219
In formamide (60 ml) was suspended 4-amino-6-(2-chloro-6-fluorobenzyl)amino-5-phenylazopyrimidine (1.07 g, 3 mmols). To the suspension was added portionwise sodium dithionite (3.28 g, 15 mmols; purity 80%) with stirring at 120°-130° C. After stirring at the same temperature for 30 minutes, the mixture was stirred at 140°-150° C. for another 1 hour. The reaction mixture was concentrated to dryness under reduced pressure, the residue washed with ether (2×30 ml), and water (50 ml) added. After ice-cooling, the insoluble matter was collected by filtration and washed. This product was put in 2 N NaOH (10 ml) and the mixture was stirred at room temperature for 30 minutes. The insoluble matter was collected by filtration, dissolved in chloroform, and purified by silica gel column chromatography [100 g, eluent: chloroform and, then, chloroformmethanol (19:1)]. Recrystallization from ethanol gave 6-amino-9-(2-chloro-6-fluorobenzyl)purine as colorless crystals (350 mg, yield 42%), m.p. 249°-250° C.

reactant | 4-amino-6-(2-chloro-6-fluorobenzyl)amino-5-phenylazopyrimidine | 3 mmols, 1.07 g | NC1=NC(=NC(=C1C1=CC=CC=C1)NCC1=C(C=CC=C1F)Cl)N=NC1=NC=CC=N1 | C21H16ClFN8
reactant | sodium dithionite | 15 mmols, 3.28 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | formamide | 60 ml | C(=O)N | CH3NO
product | 6-amino-9-(2-chloro-6-fluorobenzyl)purine | 350 mg, yield 42% | NC1=C2N=CN(C2=NC=N1)CC1=C(C=CC=C1F)Cl | C12H9ClFN5
